US07759387B2
(4-Acetyl-2-ethyl-3-hydroxy-phenoxy)-acetic acid ethyl ester
1-(3-Ethyl-2,4-dihydroxy-phenyl)-ethanone was treated with 2-bromo-acetic acid ethyl ester and processed as described in the synthesis of example 20a. Yield, 96.89%; mp, 74-75° C.; MS (CI): 267 (M++1).

reactant | 1-(3-Ethyl-2,4-dihydroxy-phenyl)-ethanone | C(C)C=1C(=C(C=CC1O)C(C)=O)O | C10H12O3
reactant | 2-bromo-acetic acid ethyl ester | C(C)OC(CBr)=O | C4H7BrO2
product | (4-Acetyl-2-ethyl-3-hydroxy-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C(=C(C=C1)C(C)=O)O)CC)=O | C14H18O5
